US09388161B2
A 20-mL microwave tube was charged with 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (200 mg, 0.70 mmol), 2-chloro-4-methylpyridine (180 mg, 1.41 mmol), N,N-dimethylformamide (15 mL), copper (I) iodide (133 mg, 0.70 mmol), and cesium carbonate (700 mg, 2.10 mmol). The reaction mixture was heated with microwave radiation for 8 h at 120° C. After cooling to room temperature, the resulting mixture was diluted with ethyl acetate (50 mL), washed with water (3×15 mL) and brine (15 mL), dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (eluting with 2:1, ethyl acetate/petroleum ether) to afford 1-[(2S)-6-bromo-2-methyl-5-[(4-methylpyridin-2-yl)oxy]-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (111 mg, 42%) as a light yellow solid. MS (ESI, pos. ion) m/z 375, 377 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 0.70 mmol, 200 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 2-chloro-4-methylpyridine | 1.41 mmol, 180 mg | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 2.10 mmol, 700 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.70 mmol, 133 mg | [Cu]I
product | 1-[(2S)-6-bromo-2-methyl-5-[(4-methylpyridin-2-yl)oxy]-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 111 mg, 42% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=CC(=C1)C | C18H19BrN2O2
